US05217978
Using the procedure described in Example 5, 4-(5-bromothien-2-yl)-4-methoxytetrahydropyran was reacted with di-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yl) disulphide to give 4-methoxy-4-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylthio)thien-2-yl]tetrahydropyran in 19% yield, m.p. 119°-120° C.

reactant | 4-(5-bromothien-2-yl)-4-methoxytetrahydropyran | BrC1=CC=C(S1)C1(CCOCC1)OC | C10H13BrO2S
reactant | di-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yl) disulphide | CN1C(C=CC2=CC(=CC=C12)SSC=1C=C2C=CC(N(C2=CC1)C)=O)=O | C20H16N2O2S2
product | 4-methoxy-4-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylthio)thien-2-yl]tetrahydropyran | 19% yield | COC1(CCOCC1)C=1SC(=CC1)SC=1C=C2C=CC(N(C2=CC1)C)=O | C20H21NO3S2
